US06831186B2
2-(4-Fluorophenoxy)ethanoic acid chloride was added slowly to a stirred suspension of N,O-dimethylhydroxylamine hydrochloride (55.80 g, 572 mmol) in saturated K2CO3 and ethyl acetate (375 mL). A moderately exothermic reaction occurred (larger scale reactions are cooled with an ice bath), and after 20 minutes, the reaction mixture was partitioned between water and ether. The ether layer was washed with 1 M HCl and saturated NaCl, and dried over MgSO4. The dried solution was filtered and concentrated under vacuum to give N-methoxy-N-methyl-2-(4-fluorophenoxy)ethanamide, a compound of formula (Z), as a yellow oil which solidified to an off-white crystalline solid, 113.05 g (73% yield from starting acid);

reactant | 2-(4-Fluorophenoxy)ethanoic acid chloride | FC1=CC=C(OCC(=O)Cl)C=C1 | C8H6ClFO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 572 mmol, 55.80 g | Cl.CNOC
solvent | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | ethyl acetate | 375 mL | C(C)(=O)OCC | C4H8O2
product | N-methoxy-N-methyl-2-(4-fluorophenoxy)ethanamide | 73% yield | CON(C(COC1=CC=C(C=C1)F)=O)C | C10H12FNO3
